US07186729B2
Step 2: Piperazine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a solution of piperazine-1,2,4-tricarboxylic acid 1-tert-butyl ester 4-(9H-fluoren-9-ylmethyl)ester 2-methyl ester (2.03 mmol) in DMF (4.0 mL) was added diethylamine (5%) and the resulting solution was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and purified using ethyl acetate/methanol (10%). ESI-MS m/z: 245(M+1), UV retention time: 0.78 min.

reactant | piperazine-1,2,4-tricarboxylic acid 1-tert-butyl ester 4-(9H-fluoren-9-ylmethyl)ester 2-methyl ester | 2.03 mmol | COC(=O)C1N(CCN(C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC(C)(C)C | C26H30N2O6
reactant | diethylamine | C(C)NCC | C4H11N
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | Piperazine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(CCNC1)C(=O)OC(C)(C)C | C11H20N2O4
